US04041163
N-(5-tetrazolyl)-7-amino-8-methylthio-4-oxo-4H-pyrimido[2,1-b]benzothiazole-3-carboxamide;
N-(5-tetrazolyl)-7-amino-8-methyl-4-oxo-4H-pyrimido[2,1-b]benzothiazole-3-carboxamide; N-(5-tetrazolyl)-7-amino-8-n-propyl-4-oxo-4H-pyrimido[2,1-b]benzothiazole-3-carboxamide; N-(5-tetrazolyl)-7-amino-8-methoxy-4-oxo-4H-pyrimido[2,1-b]benzothiazole-3-carboxamide; N-(5-tetrazolyl)-7-amino-8-ethoxy-4-oxo-4H-pyrimido[2,1-b]benzothiazole-3-carboxamide; N-(5-tetrazolyl)-7-amino-8-hydroxy-4-oxo-4H-pyrimido[2,1-b]benzothiazole-3-carboxamide; N-(5-tetrazolyl)-7-amino-8-chloro-4-oxo-4H-pyrimido[2,1-b]benzothiazole-3-carboxamide; and N-(5-tetrazolyl)-7-amino-8-fluoro-4-oxo-4H-pyrimido[2,1-b]benzothiazole-3-carboxamide.

reactant | N-(5-tetrazolyl)-7-amino-8-methyl-4-oxo-4H-pyrimido[2,1-b]benzothiazole-3-carboxamide | N1N=NN=C1NC(=O)C1=CN=C2SC3=C(N2C1=O)C=C(C(=C3)C)N | C13H10N8O2S
reactant | N-(5-tetrazolyl)-7-amino-8-n-propyl-4-oxo-4H-pyrimido[2,1-b]benzothiazole-3-carboxamide | N1N=NN=C1NC(=O)C1=CN=C2SC3=C(N2C1=O)C=C(C(=C3)CCC)N | C15H14N8O2S
reactant | N-(5-tetrazolyl)-7-amino-8-methoxy-4-oxo-4H-pyrimido[2,1-b]benzothiazole-3-carboxamide | N1N=NN=C1NC(=O)C1=CN=C2SC3=C(N2C1=O)C=C(C(=C3)OC)N | C13H10N8O3S
reactant | N-(5-tetrazolyl)-7-amino-8-ethoxy-4-oxo-4H-pyrimido[2,1-b]benzothiazole-3-carboxamide | N1N=NN=C1NC(=O)C1=CN=C2SC3=C(N2C1=O)C=C(C(=C3)OCC)N | C14H12N8O3S
reactant | N-(5-tetrazolyl)-7-amino-8-hydroxy-4-oxo-4H-pyrimido[2,1-b]benzothiazole-3-carboxamide | N1N=NN=C1NC(=O)C1=CN=C2SC3=C(N2C1=O)C=C(C(=C3)O)N | C12H8N8O3S
reactant | N-(5-tetrazolyl)-7-amino-8-chloro-4-oxo-4H-pyrimido[2,1-b]benzothiazole-3-carboxamide | N1N=NN=C1NC(=O)C1=CN=C2SC3=C(N2C1=O)C=C(C(=C3)Cl)N | C12H7ClN8O2S
reactant | N-(5-tetrazolyl)-7-amino-8-fluoro-4-oxo-4H-pyrimido[2,1-b]benzothiazole-3-carboxamide | N1N=NN=C1NC(=O)C1=CN=C2SC3=C(N2C1=O)C=C(C(=C3)F)N | C12H7FN8O2S
product | N-(5-tetrazolyl)-7-amino-8-methylthio-4-oxo-4H-pyrimido[2,1-b]benzothiazole-3-carboxamide | N1N=NN=C1NC(=O)C1=CN=C2SC3=C(N2C1=O)C=C(C(=C3)SC)N | C13H10N8O2S2
